US04886809
127 Milligrams of succinimide 3,4-dihydrocarbostyril-6-carbostyril-6-carboxylate and 123 mg of (3-hydroxyimino-3-phenylpropyl)piperazine were dissolved in 2 ml of dimethylformamide, then this mixture was stirred for 24 hours. To the reaction mixture was added water, then extracted with chloroform and this extracted was washed with water and with an aqueous solution saturated with sodium chloride. Next, the washed extract was dried with anhydrous potassium carbonate, then the solvent was removed by evaporation under reduced pressure. The residue thus obtained was recrystallized from ethanol to yield 102 mg of 6-[4-(3-hydroxyimino-3-phenylpropyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril.semihydrate. White powdery substance.

reactant | (3-hydroxyimino-3-phenylpropyl)piperazine | 123 mg | ON=C(CCN1CCNCC1)C1=CC=CC=C1 | C13H19N3O
reactant | water | O | H2O
reactant | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 6-[4-(3-hydroxyimino-3-phenylpropyl)-1-piperazinylcarbonyl]-3,4-dihydrocarbostyril | 102 mg | ON=C(CCN1CCN(CC1)C(=O)C=1C=C2CCC(NC2=CC1)=O)C1=CC=CC=C1 | C23H26N4O3
